US06992087B2
Preparation of 5-bromo-3,6-diethyl-N-[(cis)-2-ethyl-6-methoxy-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 3,6-diethyl-N-[(cis)-2-ethyl-6-methoxy-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine and making non-critical variations provided the title compound as a oil: 1H NMR (CDCl3) δ 0.93, 1.21-1.34, 2.57, 2.73, 2.82, 3.00, 3.79, 4.41, 5.76, 6.82, 7.17; HRMS (FAB) calcd for C20H26BrN3O+H 404.1338, found 404.1317. Anal. Calcd for C20H26BrN3O: C, 59.41; H, 6.48; N, 10.39; Br, 19.76. Found: C, 59.05; H, 6.42; N, 10.13.

reactant | (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C17H20BrN3O
reactant | 3,6-diethyl-N-[(cis)-2-ethyl-6-methoxy-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=C(C=C12)OC)CC | C20H27N3O
product | 5-bromo-3,6-diethyl-N-[(cis)-2-ethyl-6-methoxy-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine | BrC=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=C(C=C12)OC)CC)CC | C20H26BrN3O
